US07851626B2
2-(4-{(4S,5R)-4,5-Bis-(4-chloro-phenyl)-2-[2-ethoxy-4-(pyrrolidine-1-sulfonyl)-phenyl]-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl}piperazin-1-yl)-1-pyrrolidin-1-yl-ethanone
In a manner analogous to the method described in example 5, rac-(4S*,5R*)-4,5-bis-(4-chloro-phenyl)-2-[2-ethoxy-4-(pyrrolidine-1-sulfonyl)-phenyl]-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl chloride was reacted with 2-piperazin-1-yl-1-pyrrolidin-1-yl-ethanone (Aldrich) to give the title compound as a racemic mixture. The enantiomers were then separated by supercritical fluid chromatography (Berger Instrument Multi-Gram II, Daicel ChiralPak OD-H 3×25 cm, 35° C. at 100 bar, eluting with 30% of 1:1 ethanol/acetonitrile in carbon dioxide). HR-MS (ES, m/z) calculated for C40H48N6O5SCl2 [(M+H)+] 795.2857, observed 795.2851.

reactant | rac-(4S*,5R*)-4,5-bis-(4-chloro-phenyl)-2-[2-ethoxy-4-(pyrrolidine-1-sulfonyl)-phenyl]-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl chloride | ClC1=CC=C(C=C1)C1(N=C(N(C1(C)C1=CC=C(C=C1)Cl)C(=O)Cl)C1=C(C=C(C=C1)S(=O)(=O)N1CCCC1)OCC)C | C30H30Cl3N3O4S
reactant | 2-piperazin-1-yl-1-pyrrolidin-1-yl-ethanone | N1(CCNCC1)CC(=O)N1CCCC1 | C10H19N3O
product | 2-(4-{(4S,5R)-4,5-Bis-(4-chloro-phenyl)-2-[2-ethoxy-4-(pyrrolidine-1-sulfonyl)-phenyl]-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl}piperazin-1-yl)-1-pyrrolidin-1-yl-ethanone | ClC1=CC=C(C=C1)[C@@]1(N=C(N([C@]1(C)C1=CC=C(C=C1)Cl)C(=O)N1CCN(CC1)CC(=O)N1CCCC1)C1=C(C=C(C=C1)S(=O)(=O)N1CCCC1)OCC)C | C40H48Cl2N6O5S
